US06878707B2
2-(4-Trifluoromethyl-phenyl)-nicotinic acid methyl ester is prepared by palladium [PdCl2 (dppf)] catalyzed coupling of 2-chloronicotinic acid methyl ester (1.45 g, 8.45 mmol) and 4-trifluoromethylbenzeneboronic acid (2.41 g, 12.68 mmol) to give an oil: 1H NMR (CDCl3, 300 MHz): δ 8.80 (1H dd), 8.19 (1H, dd), 7.67 (4H, q), 7.40 (1H, dd), 3.70 (3H, s).

reactant | 2-chloronicotinic acid methyl ester | 8.45 mmol, 1.45 g | COC(C1=C(N=CC=C1)Cl)=O | C7H6ClNO2
reactant | 4-trifluoromethylbenzeneboronic acid | 12.68 mmol, 2.41 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
catalyst | palladium | [Pd] | Pd
product | 2-(4-Trifluoromethyl-phenyl)-nicotinic acid methyl ester | COC(C1=C(N=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C14H10F3NO2
